US04647576
Preparation of ±-Methyl-N-(4-fluorobenzoyl)-N-[2-(2-ethyl)-1,3 dioxolanyl]valine.
To a stirred solution of Methyl-N-[2-(2-ethyl)-1,3-dioxolanyl]valine (3 g, 13 mmoles) and triethylamine (3.6 ml, 26 mmoles) in 20 ml of dichloromethane (CH2CL2) cooled to 0° C. was added a solution of 4-fluorobenzoyl chloride (1.65 ml, 14 mmoles) in 10 ml of (CH2CL2). The solution was stirred 60 minutes at 0° C. and 60 minutes at room temperature. It was then poured into ether and washed with water, saturated aq. bicarbonate, brine, and dried (MgSO4). Flash chromatography on silica gel eluting with 1:1 hexane-ethyl acetate provided 3 g of the title compound. 90 MHz NMR (CDCl3) δ 0.90, (brd, J=7 Hz, 6H), 1.8-2.5 (m, 3H), 3.45 (br, dd, J=6, 8 Hz, 1H), 3.72 (s, 3H), 3.80 (m, 6H), 4.80 (m, 1H), 6.9-7.5 (m, 4H).

reactant | Methyl-N-[2-(2-ethyl)-1,3-dioxolanyl]valine | 13 mmoles, 3 g | CN([C@@H](C(C)C)C(=O)O)C1(OCCO1)CC | C11H21NO4
reactant | triethylamine | 26 mmoles, 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 14 mmoles, 1.65 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl-N-(4-fluorobenzoyl)-N-[2-(2-ethyl)-1,3 dioxolanyl]valine | 3 g | C[C@](N(C1(OCCO1)CC)C(C1=CC=C(C=C1)F)=O)(C(C)C)C(=O)O | C18H24FNO5
